US08217029B2
148.i) [(R)-3-(3-Fluoro-4-methyl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-carbamic acid tert-butyl ester
According to procedure C and starting from 3-fluoro-4-methylaniline (commercial) the corresponding Cbz-protected intermediate was obtained in quantitative yields. LiOtBu (2.2M in THF, 6.8 mL, 3 eq) was added to a solution of the latter (1.3 g, 5.0 mmol) and (R)-oxiranylmethyl-carbamic acid tert-butyl ester (commercial, 0.87 g, 5.0 mmol) in DMF (10 mL). The mixture was stirred at rt over the weekend after which the solution was diluted with EA, washed with water and concentrated. The residue was purified by CC (Hept-EA 2:1) to afford the title intermediate as a colorless oil (1.32 g, 81%).

reactant | 3-fluoro-4-methylaniline | FC=1C=C(N)C=CC1C | C7H8FN
reactant | LiOtBu | 2.2M, 6.8 mL, 3 eq | O([Li])C(C)(C)C
reactant | (R)-oxiranylmethyl-carbamic acid tert-butyl ester | 5.0 mmol, 0.87 g | C(C)(C)(C)OC(NC[C@H]1OC1)=O | C8H15NO3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | [(R)-3-(3-Fluoro-4-methyl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-carbamic acid tert-butyl ester | 1.32 g, 81% | C(C)(C)(C)OC(NC[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C)F)=O | C16H21FN2O4
